US05100892
A solution of 361 mg (1.62 mmol) of the THP-derivative of 3-bromo-1-propanol prepared above, 220 mg (1.08 mmol) of 6-(4-hydroxyphenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone and 298 mg (2.15 mmol) of powdered anhydrous potassium carbonate in 3 ml of DMF is heated at 100° C. for 2 hr. After cooling the reaction mixture is diluted with 25 ml of water and extracted with EtOAc (3×25 ml). The combined organic extracts are washed once with water, dried (MgSO4), filtered, and the solvent removed under vacuum. The residue is taken up in 5 ml of methanol, about 200 mg of pyridinium p-toluenesulfonate added, and the mixture heated at 60° C. for 2 hr under N2. solvent is removed under vacuum and the residue is flash chromatographed on silica gel (95:5 CHCl3 :CH3OH) to give 252 mg of 6-[4-(3-hydroxypropyloxy)phenyl]-5-methyl-4,5-dihydro-3 (2H)-pyridazinone as a white solid. 1H-NMR (CDCl3): δ1.18 (d, 3H); 1.83 (t, 1H); 2.00 (quintuplet, 2H); 2.40 (d, 1H); 2.63 (d pair, 1H); 3.25 (m, 1H); 3.80 (m, 2H); 4.10 (t, 2H); 6.90 (d, 2H); 7.63 (d, 2H); 8.65 (s, 1H).

reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
reactant | 6-(4-hydroxyphenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 1.08 mmol, 220 mg | OC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H12N2O2
reactant | potassium carbonate | 2.15 mmol, 298 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | 6-[4-(3-hydroxypropyloxy)phenyl]-5-methyl-4,5-dihydro-3 (2H)-pyridazinone | 252 mg | OCCCOC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H18N2O3
